US08309596B2
C) (S)-1-[(Pyridin-3-ylmethyl)-carbamoyl]-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester
50% propylphosphonic anhydride solution in 650 μl of DMF is added to a solution of 200 mg of (S)-Hexahydro-cyclopenta[c]pyrrole-1,2-dicarboxylic acid 2-tert-butyl ester, 7.42 mg of 4-dimethylaminopyridine and 650 μl of diisopropylethylamine in CH2Cl2. After stirring at rt for 16 hours, the reaction is quenched with aq. 2N NaOH solution, eluted through a Chem Elut extraction with CH2Cl2 and solvent is evaporated before purification by preparative HPLC is carried out (Waters Sun Fire C18 column, gradient water/acetonitrile 95/5 to 0/100) to yield the title compound.

reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | (S)-Hexahydro-cyclopenta[c]pyrrole-1,2-dicarboxylic acid 2-tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1[C@@H](C2C(C1)CCC2)C(=O)O | C13H21NO4
reactant | diisopropylethylamine | 650 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 650 μl | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 7.42 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-1-[(Pyridin-3-ylmethyl)-carbamoyl]-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C2C(C1)CCC2)C(NCC=2C=NC=CC2)=O | C19H27N3O3
